US06869947B2
Step A: 8-Chloro-7-(2-chlorobenzyl)-1,3-dimethyl-3,7-dihydropurine-2,6-dione (19A)
From 8-Chorotheophylline (10 g, 47 mmol)) and 2-chlorobenzyl chloride (19.4 ml, 153.9 mmol). The 2-chlorobenzyl chloride was added in three portions. First third at reaction start as described in general procedure (E), and the other thirds after 24 and 48 hours respectively as the reaction had not completed. Total reaction time 7 days at RT. Due to incomplete precipitation in water the product was extracted with DCM (700 and 300 ml), dried (MgSO4), and evaporated to dryness in vacuo. Excess 2-chlorobenzyl bromide was removed by washing the product in Et2O.

reactant | 8-Chorotheophylline | 47 mmol, 10 g | ClC1=NC=2N(C(N(C)C(C2N1)=O)=O)C | C7H7ClN4O2
reactant | 2-chlorobenzyl chloride | 153.9 mmol, 19.4 ml | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
product | 8-Chloro-7-(2-chlorobenzyl)-1,3-dimethyl-3,7-dihydropurine-2,6-dione | ClC1=NC=2N(C(N(C(C2N1CC1=C(C=CC=C1)Cl)=O)C)=O)C | C14H12Cl2N4O2
